US06015818
To a suspension of lithium aluminum hydride (31.1 mg) in tetrahydrofuran (1 ml) was dropwise added a solution of methyl 2-[(E)-2-(4-pyridyl)vinyl]pyridine-5-carboxylate (385 mg) in tetrahydrofuran (10 ml) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 45 minutes at the same temperature. Aqueous ammonia was dropwise added thereto at 0° C. and then methanol (5 ml) was further added thereto, and the mixture was stirred for 2 hours. After filtration the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane, and the solution was washed with water and brine and dried over magnesium sulfate. The solvent was removed in vacuo, and the residue was washed with diisopropyl ether to give 5-hydroxymethyl-2-[(E)-2-(4-pyridyl)vinyl]pyridine (251 mg).

reactant | lithium aluminum hydride | 31.1 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-[(E)-2-(4-pyridyl)vinyl]pyridine-5-carboxylate | 385 mg | N1=CC=C(C=C1)/C=C/C1=NC=C(C=C1)C(=O)OC | C14H12N2O2
reactant | ammonia | N | H3N
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-hydroxymethyl-2-[(E)-2-(4-pyridyl)vinyl]pyridine | 251 mg | OCC=1C=CC(=NC1)\C=C\C1=CC=NC=C1 | C13H12N2O
